US06350761B1
To 4-(piperidin-4-yl)oxy-3-trifluoromethyl-N-(2-(carboxy)ethylcarbonyl)-N-(3-(6-(hydroxy)-3-amidinophenyl)prop-2-en-1-yl)benzenamine (2.5 g) and ethyl acetimidate (2 g) in ethanol (100 mL) was added triethylamine and the solution was stirred at ambient temperature for 4 hours. The solution was acidified with trifluoroacetic acid, concentrated, separated on HPLC (CH3CN/H2O, gradient) and freeze-dried to afford 4-(N′-(1-iminoethyl)piperidin-4-yl)oxy-3-trifluoromethyl-N-(2-(carboxy)ethylcarbonyl)-N-(3-(6-(hydroxy)-3-amidinophenyl)prop-2-en-1-yl)benzenamine.

reactant | 4-(piperidin-4-yl)oxy-3-trifluoromethyl-N-(2-(carboxy)ethylcarbonyl)-N-(3-(6-(hydroxy)-3-amidinophenyl)prop-2-en-1-yl)benzenamine | 2.5 g | N1CCC(CC1)OC1=C(C=C(C=C1)N(CC=CC1=CC(=CC=C1O)C(N)=N)C(=O)CCC(=O)O)C(F)(F)F | C26H29F3N4O5
reactant | ethyl acetimidate | 2 g | C(C)(OCC)=N | C4H9NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-(N′-(1-iminoethyl)piperidin-4-yl)oxy-3-trifluoromethyl-N-(2-(carboxy)ethylcarbonyl)-N-(3-(6-(hydroxy)-3-amidinophenyl)prop-2-en-1-yl)benzenamine | N=C(C)N1CCC(CC1)OC1=C(C=C(C=C1)N(CC=CC1=CC(=CC=C1O)C(N)=N)C(=O)CCC(=O)O)C(F)(F)F | C28H32F3N5O5
